US07507775B2
1-propyl-1,1,3,3-tetramethyldisiloxane (Structure 4).
An 80 mL Fischer-Porter high pressure bottle was charged with tetramethyldisiloxane (10.0 g), toluene (10.0 g) and Wilkinson's catalyst ((PPh3)3RhCl, 40 ppm), stirred and brought to 50° C. The bottle was attached to a manifold and pressurized with propylene (40 psig) and maintained at 50° C. for 2 h. The pressure was vented, and the reaction was sampled for GC analysis; found M′MR product and MRMR byproduct (40:60). The resulting mixture of materials was used without further purification, yield 14.1 g.

reactant | tetramethyldisiloxane | 10.0 g | C[SiH2]O[Si](C)(C)C | C4H14OSi2
reactant | propylene | C=CC | C3H6
reactant | toluene | 10.0 g | C1(=CC=CC=C1)C | C7H8
catalyst | Wilkinson's catalyst | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.[Cl-].[Rh]
product | 1-propyl-1,1,3,3-tetramethyldisiloxane | C(CC)[Si](O[SiH](C)C)(C)C | C7H20OSi2
